US08293768B2
Synthesis of N-benzyl-2-(3-(3-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide
Following the procedure as described in Example 23, making variations as required to replace 4-(chloromethyl)benzonitrile with 1-(bromomethyl)-3-fluorobenzene to react with N-benzyl-4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxamide, the title compound was obtained as a colorless solid in 8% yield: mp 155-156° C. (ethyl acetate); 1H NMR (300 MHz, CDCl3) δ 7.40-7.27 (m, 6H), 7.06-6.96 (m, 3H), 5.87 (t, J=5.7 Hz, 1H), 4.56 (d, J=5.7 Hz, 2H), 4.45 (s, 2H), 4.10-4.05 (m, 2H), 3.49-3.43 (m, 2H), 2.60 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 162.2, 157.8, 155.5, 151.4, 140.1, 136.7, 129.1, 128.7, 128.2, 127.9, 127.6, 127.1, 118.2, 47.3, 43.0, 42.4, 42.0, 17.5; MS (ES+) m/z 425.3 (M+1).

reactant | 4-(chloromethyl)benzonitrile | ClCC1=CC=C(C#N)C=C1 | C8H6ClN
reactant | 1-(bromomethyl)-3-fluorobenzene | BrCC1=CC(=CC=C1)F | C7H6BrF
reactant | N-benzyl-4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(NCC1)=O)C | C15H16N4O2S
product | N-benzyl-2-(3-(3-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide | 8% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(N(CC1)CC1=CC(=CC=C1)F)=O)C | C22H21FN4O2S
